US06005000
A total of 3.5 mL (10.5 mmol) of 3.0 M phenylmagnesium bromide was added to a solution of 2.3 g (10 mmol) of ethyl 4-isobutylbenzoylformate in THF in an analogous manner as described for the synthesis of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to provide an oil, which was purified over 400 g of SiO2 by eluting with 500 mL of CHCl3, 500 mL of EtOH/CHCl3 (3/97) and 500 mL of EtOH/CHCl3 (8/92) to provide 1.2 g (29% yield) of 4-hydroxy-5-(4-isobutylphenyl)-5-phenyl-3-phenylmethoxy-2(5H)-furanone as a tan powder recrystallized from CHCl3 and hexanes.

reactant | phenylmagnesium bromide | 10.5 mmol, 3.0 M, 3.5 mL | C1(=CC=CC=C1)[Mg]Br
reactant | ethyl 4-isobutylbenzoylformate | 10 mmol, 2.3 g | C(C(C)C)C1=CC=C(C(=O)C(=O)OCC)C=C1 | C14H18O3
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
solvent | THF | C1CCOC1 | C4H8O
product | 4-hydroxy-5-(4-isobutylphenyl)-5-phenyl-3-phenylmethoxy-2(5H)-furanone | 1.2 g, 29% yield | OC1=C(C(OC1(C1=CC=CC=C1)C1=CC=C(C=C1)CC(C)C)=O)OCC1=CC=CC=C1 | C27H26O4
